US08563565B2
(1) Synthesis of ethyl 1-(1,4-dioxepan-6-yl)-5-{4-(2-methoxy-4,6-dimethylpyridin-3-yl)-2-nitrophenyl}-1H-pyrazole-4-carboxylate
Water (0.3 mL), 3-bromo-2-methoxy-4,6-dimethylpyridine (32.5 mg) obtained in Preparation Example 26, Pd(PPh3)4 (7.2 mg) and cesium carbonate (122 mg) were added to a solution of ethyl 1-(1,4-dioxepan-6-yl)-5-[2-nitro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1H-pyrazole-4-carboxylate (61 mg) in 1,4-dioxane (1.2 mL), and the reaction mixture was stirred at 100° C. for 4 hours. Pd(PPh3)4 (7.2 mg) was added to the reaction mixture, and the reaction mixture was stirred at 100° C. for 1 hour and 10 minutes. The reaction mixture was returned to room temperature and partitioned by adding ethyl acetate and water, and the organic layer was separated. The resulting organic layer was sequentially washed with water and brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/n-heptane, 15 to 20%) to give the title compound (15 mg).

reactant | ethyl 1-(1,4-dioxepan-6-yl)-5-[2-nitro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1H-pyrazole-4-carboxylate | 61 mg | O1CCOCC(C1)N1N=CC(=C1C1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)[N+](=O)[O-])C(=O)OCC | C23H30BN3O8
reactant | 1,4-dioxane | 1.2 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 7.2 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | ethyl 1-(1,4-dioxepan-6-yl)-5-{4-(2-methoxy-4,6-dimethylpyridin-3-yl)-2-nitrophenyl}-1H-pyrazole-4-carboxylate | 15 mg | O1CCOCC(C1)N1N=CC(=C1C1=C(C=C(C=C1)C=1C(=NC(=CC1C)C)OC)[N+](=O)[O-])C(=O)OCC | C25H28N4O7
